US06589921B2
A solution of 7.50 g (50.0 mmol) 2-formylbenzoic acid, 4.89 g (40.0 mmol) DMAP and 15.42 g (100.0 mmol) geraniol in 75 ml dichloromethane was cooled in an ice bath before addition of a solution of 11.37 g (55.0 mmol) DCC in 25 ml dichloromethane, for 15 min. The reaction medium was maintained under stirring at 0° for 15 min, then at 20° for 48 h. The precipitate formed during the reaction was filtered and the filtrate washed with HCl (10%, 2×) and with a saturated Na2CO3 solution (2×) and water (2×). The organic phase was dried over Na2SO4, concentrated and chromatographed (SO2, 8:2 heptane/ether) to give 2.55 g (22%) (E)3,7-dimethyl-2,6-octadienyl 2-formylbenzoate in the pure state in the form of a colourless oil.

reactant | 2-formylbenzoic acid | 50.0 mmol, 7.50 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | geraniol | 100.0 mmol, 15.42 g | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | DCC | 55.0 mmol, 11.37 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 40.0 mmol, 4.89 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (E)3,7-dimethyl-2,6-octadienyl 2-formylbenzoate | 2.55 g, 22% | C(=O)C1=C(C(=O)OC\C=C(\CCC=C(C)C)/C)C=CC=C1 | C18H22O3
